US05306314
Preparation of α-[2-(N-(2'-Aminoethyl)carbamoyloxy)ethyl]-ω-[1-(2'-(p-dodecylphenoxy)ethoxy)ethyl]poly(1-ethoxyethylene)
The alcohol (30.0 grams) from Example 3 and 7.2 grams of 1,1'-carbonyldiimidazole were dissolved in 300 mL of anhydrous dichloromethane under nitrogen. The reaction was stirred for 16 hours at room temperature and then diluted is with 1 L of dichloromethane. Water (1 L) was added and the mixture was stirred vigorously for ten minutes. The phases were separated and the organic phase was washed twice with is water, dried over anhydrous sodium sulfate and filtered. Ethylenediamine (7.33 mi) was added and the reaction was allowed to stir for 16 hours under nitrogen. The organic phase was washed three times with water, once with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo to give an oil. The oil was chromatographed on silica gel, eluting first with dichloromethane and then with dichloromethane/ isopropanol/ammonium hydroxide (9:0.9:0.1) to yield 6.0 grams of the desired product as a yellow oil. The product had an average of 22 ethoxyethylene units. 1H NMR (CDC3) δ 7.05-7.25 (m, 2H), 6.7-6.9 (m, 2H), 4.15-4.25 (bt, 2H), 4.05-4.15 (bt, 2H), 3.2-4.0 (m, 71H), 2.8-3.0 (bt, 2H), 0.6-2.0 (m, 140H).

reactant | 1,1'-carbonyldiimidazole | 7.2 grams | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | 1 L | O | H2O
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 1 L | ClCCl | CH2Cl2
product | dichloromethane isopropanol ammonium hydroxide | ClCCl.C(C)(C)O.[OH-].[NH4+] | InChI=1S/C3H8O.CH2Cl2.H3N.H2O/c1-3(2)4;2-1-3;;/h3-4H,1-2H3;1H2;1H3;1H2
